US04154947
Preparation of 1-(2,6-Dichlorobenzylideneamino)-3-(2-pyridylmethyl)guanidine
A solution of 5.85 g. of methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydriodide (U.S. Pat. No. 3,657,337) and 3.24 g. of 2-(aminomethyl)pyridine in 25 ml. of absolute ethanol is heated under reflux for 20 hours and diluted while hot with 75 ml. of water, causing the separation of an oil. On standing, the oil crystallizes and filtration gives 5.00 g. of pale yellow crystals, m.p. 125°-140° C. Recrystallization from aqueous ethanol gives the desired compound as pale yellow crystals, m.p. 159.5°-161° C.

reactant | methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydriodide | I.ClC1=C(C=NNC(SC)=N)C(=CC=C1)Cl
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(2,6-Dichlorobenzylideneamino)-3-(2-pyridylmethyl)guanidine | ClC1=C(C=NNC(=N)NCC2=NC=CC=C2)C(=CC=C1)Cl | C14H13Cl2N5
